US07825128B2
c) Preparation of (RS)—N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide
8.50 g (42.5 mmol) (RS)—S-(4-nitrophenyl)-S-methylsulfoximide in 400 ml pyridine are treated dropwise at room temperature with 18.8 ml (197.2 mmol) ethyl chloroformate. The mixture is stirred at room temperature for 4 hours and then poured into dilute NaCl solution. It is extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated. The remaining residue is chromatographically purified (hexane/ethyl acetate 1:1). 8.94 g (32.8 mmol, corresponding to 77% of theor.) of the product is obtained.

reactant | (RS)—S-(4-nitrophenyl)-S-methylsulfoximide | 42.5 mmol, 8.50 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | ethyl chloroformate | 197.2 mmol, 18.8 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaCl | [Na+].[Cl-]
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | (RS)—N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide | C(C)OC(=O)N=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H12N2O5S
